US06627651B1
To methyl 7-hydroxy-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (0.4 g), 4-(3-ethoxypropyl)phenylboric acid (0.65 g), cupric acetate (0.27 g) and molecular sieves 4A (0.8 g) suspended in dichloromethane (15 ml) was added triethylamine (1.0 ml), and the resulting mixture was stirred overnight at room temperature. The reaction mixture was filtered through celite, and the filtrate was evaporated to remove the solvent. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to obtain methyl 7-[4-(3-ethoxypropyl)phenoxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (0.28 g) as colorless crystals.

reactant | methyl 7-hydroxy-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 0.4 g | OC=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C12H12O5S
reactant | 4-(3-ethoxypropyl)phenylboric acid | 0.65 g | C(C)OCCCC1=CC=C(C=C1)OB(O)O | C11H17BO4
reactant | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | methyl 7-[4-(3-ethoxypropyl)phenoxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 0.28 g | C(C)OCCCC1=CC=C(OC=2C=CC3=C(C=C(CCS3(=O)=O)C(=O)OC)C2)C=C1 | C23H26O6S
